US07435822B2
Di-thiophen-3-yl-methanone
To 2.1 gm (10.7 mmol) of Di-thiophen-3-yl-methanol in 50 mL of dichloromethane at room temperature was added 3.0 gm (13.9 mmol) of PCC. The reaction suspension was allowed to stir 2 hrs at room temperature. After 2 hrs, the reaction mixture was filtered and precipitates were washed with dichloromethane. The combined filtrates were concentrated. The concentrated sample was purified by flashy chromatography (hexane:ethyl acetate, from 11 to 18% ethyl acetate over 16 column volume) to obtain 1.83 gm (88.0%) of light yellow crystals; 1H NMR 500 MHz (CDCl3) δ 8.02 (d, 1H), 8.01 (d, 1H), 7.62 (d, 1H), 7.61 (d, 1H), 7.40 (d, 1H), 7.38 (d, 1H).

reactant | Di-thiophen-3-yl-methanol | 10.7 mmol, 2.1 gm | S1C=C(C=C1)C(O)C1=CSC=C1 | C9H8OS2
reactant | PCC | 13.9 mmol, 3.0 gm | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Di-thiophen-3-yl-methanone | S1C=C(C=C1)C(=O)C1=CSC=C1 | C9H6OS2
